US07332485B2
1-(Benzyloxyimino-Methyl)-Cyclopentanecarboxylic Acid Methyl Ester
A mixture of 1-formyl-cyclopentanecarboxylic acid methyl ester (3.1 g, 19.8 mmol), sodium acetate (2.74 g, 39.72 mmol) and O-benzylhydroxylamine hydrochloride (6.34 g, 39.7 mmol) were stirred in methanol (120 mL) for 18 h. The methanol was removed in vacuo and the residue partitioned between water and EtOAc. The aqueous phase was extracted with EtOAc (50 mL×2). The combined organic extracts were dried (MgSO4) and were evaporated in vacuo. Purification by flash column chromatography using an eluting system of hexane/EtOAc (95:5 to 90:10) provided the title compound as a clear colorless oil (2.26 g, 44%). MH+262.

reactant | 1-formyl-cyclopentanecarboxylic acid methyl ester | 19.8 mmol, 3.1 g | COC(=O)C1(CCCC1)C=O | C8H12O3
reactant | sodium acetate | 39.72 mmol, 2.74 g | C(C)(=O)[O-].[Na+]
reactant | O-benzylhydroxylamine hydrochloride | 39.7 mmol, 6.34 g | Cl.C(C1=CC=CC=C1)ON
solvent | methanol | 120 mL | CO | CH4O
product | 1-(Benzyloxyimino-Methyl)-Cyclopentanecarboxylic Acid Methyl Ester | 2.26 g, 44% | COC(=O)C1(CCCC1)C=NOCC1=CC=CC=C1 | C15H19NO3
